US06683087B2
b) N-(3- (4-methoxyphenyl)-propyl)-N-propylamine (GMC6633)
To a stirred mixture of LiAlH4 (8.0 g, 200 mmol) in tetrahydrofuran (100 mL) was added dropwise a solution of 3-(4-methoxyphenyl)-propionic acid n-propyl amid (10.7 g, 49 mmol) (from a) above) in tetrahydrofuran (100 mL). After refluxing for 12 h the mixture was cooled to 50° C. and excess hydride was destroyed by careful addition of water (10 mL), 5% aqueous NaOH (40 mL) and water (20 mL) allowing reflux conditions. The hot slurry was filtered and the white precipitate was washed thoroughly with ethanol. Volatiles were evaporated and the resulting oil dissolved in ethyl acetate (50 mL) what was extracted with 0.5 N aqueous HCl (4×50 mL). The acidic phase was made alkaline (pH=9) by addition of 30% aqueous NaOH and extracted with ethyl acetate (4×50 mL). The organic layers were combined, washed with brine, dried (MgSO4) and evaporated to dryness to give an oil that partially crystallized in diethyl ether as the hydrochloride salt. Recrystallization from acetone/diethyl ether gave white flacky crystalline material. Total yield (as free base): 9.9 g, 48 mmol, 98%, mp 176-177° C. IR (neat) cm−1 2960, 2772, 1611, 1514; 1H-NMR (CDCl3) δ9.46 (br s, 1H), 7.16 (d, 2H), 6.90 (d, 2H),3.72 (s, 3H), 2.82 (br s, 4H), 2.59 (t, 2H), 2.15 (p, 2H), 1.83 (h, 2H), 0.89 (t, 3H) ppm; 13C-NMR (CDCl3) δ156.6, 130.3, 127.7, 112.4, 53.7, 47.9, 45.66, 30.3, 25.9, 17.8, 9.7 ppm; MS (EI) m/z 207 (M+).

reactant | LiAlH4 | 200 mmol, 8.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(4-methoxyphenyl)-propionic acid n-propyl amid | 49 mmol, 10.7 g | C(CC)NC(CCC1=CC=C(C=C1)OC)=O | C13H19NO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(3- (4-methoxyphenyl)-propyl)-N-propylamine | COC1=CC=C(C=C1)CCCNCCC | C13H21NO
